US07425560B2
c) 5,6-Diamino-1-(4-methoxybenzyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
The title compound was prepared according to the general method of Example 14 (c) except that dilute acetic acid was used for neutralization of the reaction mixture. The desired product (0.83 g, 73%) was prepared as a yellow solid starting from 6-amino-1-(4-methoxybenzyl)-5-nitroso-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (1.2 g, 4.1 mmol).

reactant | 6-amino-1-(4-methoxybenzyl)-5-nitroso-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 4.1 mmol, 1.2 g | NC1=C(C(NC(N1CC1=CC=C(C=C1)OC)=S)=O)N=O | C12H12N4O3S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,6-Diamino-1-(4-methoxybenzyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 0.83 g, 73% | NC=1C(NC(N(C1N)CC1=CC=C(C=C1)OC)=S)=O | C12H14N4O2S
